### ISSUE TITLE
`conv intro` fails with multiple quantifiers

### ISSUE THREAD

**Issue by Vtec234** [leanprover/lean4#1426]
### Description

```lean
example : true := by
  have h : ∀ (a b : Nat), a * b = a * b := by
    intros; rfl
  conv at h =>
    intro a b
          --^ 'apply forall_congr' unexpected result
```

### Steps to Reproduce

**Expected behavior:** The two `intro` steps should succeed.

**Actual behavior:** The second step fails.

**Reproduces how often:** 100%

### Versions

`nightly-2022-08-05`
